US04052455
A nitrogen atmosphere is employed throughout the reaction. A solution of sodium borohydride (3.8 g., 0.1 mole) in 10 ml. of water is added to a suspension of about 200 mg. of 10% palladium on carbon in 10 ml. of water. After 5 min., 200 ml. of methanol is added followed by portion-wise addition of finely powdered N-(4-nitrostyryl)benzamidine (8.0 g., 0.03 mole) over a period of 5 min. During the addition, the mixture refluxes and continues to boil for about 5-10 min. thereafter. The reaction mixture is stirred without external heating for 0.5 hr., filtered through celite, concentrated under reduced pressure and the residue stirred with 25 ml. of water and filtered. The filter cake washed with cold water, dried, and triturated with isopropyl alcohol provides 6.8 g. (86% yield) of N-(4-aminostyryl)benzamidine free base, m.p. 166°-168° C. Treating the free base in methanol with ethanolic hydrogen chloride and evaporating the solvent under reduced pressure provides the crude hydrochloride. Analytically pure N-(4-AMINOSTYRYL)BENZAMIDINE DIHYDROCHLORIDE, m.p. 217.5°-219.5° C. (dec.)(corr.), (60% yield) is obtained by first triturating the crude hydrochloride with acetone and then recrystallizing from methanol-isopropyl ether.

reactant | sodium borohydride | 0.1 mole, 3.8 g | [BH4-].[Na+]
reactant | water | O | H2O
reactant | N-(4-nitrostyryl)benzamidine | 0.03 mole, 8.0 g | [N+](=O)([O-])C1=CC=C(C=CNC(C2=CC=CC=C2)=N)C=C1 | C15H13N3O2
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | N-(4-aminostyryl)benzamidine | 86% yield | NC1=CC=C(C=CNC(C2=CC=CC=C2)=N)C=C1 | C15H15N3
